US07608627B2
To a solution of 1H-pyrrolo[2,3-c]pyridine-2-carboxaldehyde (0.80 g, 5.47 mmol) in THF (27.4 mL) was slowly added methylmagnesium chloride (22% by weight in THF, 5.0 mL, 15.3 mmol) at 0° C. under a nitrogen atmosphere. The ice/water bath was removed, and the reaction mixture was stirred for 45 min. The reaction mixture was quenched with methanol and concentrated to dryness. The solid residue was treated with water (50 mL) and sonicated. The solids were filtered and collected, but they were shown to be undesired material. The water filtrate was concentrated to dryness, treated with 6 N HCl (2.55 mL) and concentrated to dryness again. The resulting orange solid was diluted with EtOAc and treated with saturated NaHCO3. The aqueous layer was extracted with EtOAc (3×). The combined organic extracts were washed with saturated NaCl and dried over Na2SO4. The organic extract was filtered and concentrated to provide 1-(1H-pyrrolo[2,3-c]pyridin-2-yl)ethanol (0.67 g, 75%) as a tan solid: 1H NMR (300 MHz, CD3OD) δ1.59 (3H, d, J=6.6 Hz), 5.05 (1H, q, J=6.6 Hz), 6.41 (1H, s), 7.49-7.51 (1H, m), 8.00 (1H, d, J=5.6 Hz), 8.60 (1H, s); ESI MS m/z 163 [C9H10N2O+H]+; HPLC (Method A) 89.0% (AUC), tR=9.34 min.

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxaldehyde | 5.47 mmol, 0.80 g | N1C(=CC=2C1=CN=CC2)C=O | C8H6N2O
reactant | methylmagnesium chloride | 15.3 mmol, 5.0 mL | C[Mg]Cl
solvent | THF | 27.4 mL | C1CCOC1 | C4H8O
product | 1-(1H-pyrrolo[2,3-c]pyridin-2-yl)ethanol | 0.67 g, 75% | N1C(=CC=2C1=CN=CC2)C(C)O | C9H10N2O
